US04716241
30 g of 1,2,2,5,5-pentamethylcyclopentanol was dissolved in 150 ml of pyridine, and 20 ml of thionyl chloride was added dropwise thereto with ice cooling. The reaction mixture was stirred overnight and subjected to filtration. Ether and water were added to the filtrate, and the resulting layers were separated. The organic layer was washed twice with 200 ml of water, and then dried over anhydrous sodium sulfate. The solvent was distilled away under reduced pressure, whereby 10.8 g of 1-methylene-2,2,5,5-tetramethylcyclopentane was obtained (b.p. 137°-140° C./760 mmHg).

reactant | 1,2,2,5,5-pentamethylcyclopentanol | 30 g | CC1(C(CCC1(C)C)(C)C)O | C10H20O
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 1-methylene-2,2,5,5-tetramethylcyclopentane | 10.8 g | C=C1C(CCC1(C)C)(C)C | C10H18
